US05162360
n-BuLi (2.2 M, 69.5 mL, 0.153 mol) was added dropwise to a cooled (-78° C.) solution of 3-dibutylaminopropyne (24.9 g, 0.149 mol) in anhydrous ether (175 mL) at a rate not allowing the temperature to rise above -50° C. The resulting solution was stirred (5minutes, -70° C.), then phenyl cyanate (19.6 g, 0.164 mol) was added dropwise at a rate not allowing the temperature to rise above -60° C. The resulting solution was stirred (45 minutes, -78° C.), then warmed (25° C.). The resulting dark brown solution was diluted with ether (250 mL), washed with 3.0 N NaOH (3×170 mL), washed with brine (1×170 mL), then dried (MgSO4), and concentrated in vacuo. The resulting oil was chromatographed on silica (chloroform) to yield 27.0 g (94.4%) of 4-dibutylamino-2-butynenitrile as a brown liquid. 1H NMR (250 MHz, CDCl3): δ 3.53 (s, 2H), 2.46 (t, 4H), 1.36 (m, 8H), 0.92 (t, 6H).

reactant | n-BuLi | 0.153 mol, 2.2 M, 69.5 mL | [Li]CCCC
reactant | 3-dibutylaminopropyne | 0.149 mol, 24.9 g | C(CCC)N(CC#C)CCCC | C11H21N
reactant | phenyl cyanate | 0.164 mol, 19.6 g | C1(=CC=CC=C1)OC#N | C7H5NO
solvent | ether | 175 mL | CCOCC | C4H10O
solvent | ether | 250 mL | CCOCC | C4H10O
product | 4-dibutylamino-2-butynenitrile | 27.0 g, 94.4% | C(CCC)N(CC#CC#N)CCCC | C12H20N2
